* Version 2.0 Copyright © Linear Technology Corp. 10/19/05. All rights reserved.
*
* ----------------------------
* terminal definitions
* ----------------------------
*& VIN
*& VOUT
*& ADJUST
*& VGND
*& SHDN
* ------------------------------
*
.SUBCKT LT1963 1 2 3 5 8
*
*********************
* power section
*********************
*
* pass transistor
QPWR 51 54 52 Q1
RBASE 54 84 5.0E3
*
* current limiter with SOA protection
VSENS 8 52 DC 0
RSENS 68 0 1.0E3
FSENS 0 68 VSENS 1.0E-3
FCL1 0 60 VSENS 0.0305
GCL0 0 60 POLY(2) 68 0 65 0 0 0 0 0 0 0 0 0 4.1E-4
RCL1 60 0 10
DCL1 60 61 DX
VCL1 61 0 DC 0
GCL1 0 63 POLY(1) 8 1 -4.5E-3 1.0E-3
RCL2 0 63 1.0E3
DCL2 63 64 DX
RCL3 64 0 50E3
GCL2 0 65 POLY(1) 64 0 0 0 1.0E-4
RCL4 65 0 1.0E3
DCL3 65 66 DX
VCL2 66 0 DC 15.8
FCL2 90 3 VCL1 1.0
*
* temperature dependent dropout voltage
RDROP 51 55 RVD 0.05
*
* quiescent current
GQC 8 3 80 3 5.78E-4
RQC 1 3 4.0E3
*
* load dependent ground pin current
GGPC1 8 3 POLY(3) 68 0 42 0 46 3 0 0 -2.82E-7 0 0.0327 0 0 0 0 0 0 0 -1.2E-3
GGPC2 3 45 POLY(1) 8 2 0.0E-3 1.0E-3
RGPC1 45 3 1.0E3
DGPC1 45 46 DX
RGPC2 46 3 1.0E5
*
* reverse input protection
ERVP1 40 0 8 3 1.0
DRVP1 40 41 DX
RRVP1 41 42 1.0E3
DRVP2 42 0 DX
RRVP2 42 0 1.0E4
*
* reverse input current
DRVP3 43 8 DX
RRVP3 43 3 1.9E5
*
* reverse output protection
SROP1 55 1 1 8 SROP1
*
********************
* error amplifier
********************
*
* adjust input with +/-7V clamp
RADJ 2 80 10
DAP1 80 89 DAC
DAP2 0 89 DAC
RAPB 80 3 REA 403300
*
GEA1 3 81 80 90 1.1
REA1 81 3 1.0E4
CP1 81 82 1.0E-3
RP1 82 3 210
CFEED 84 88 8.5E-11
RFEED 88 90 2.5E3
GEA2 3 84 81 3 1.0E-4
REA2 84 3 1.0E4
EEAP 85 3 41 0 1.0
DEAP 84 85 DX
DEAN 86 84 DX
VEAN 86 3 DC 1.4
*
****************************
* voltage reference
****************************
*
* temperature dependent 1.21V reference
IREF1 3 90 DC 1.2094E-3
RREF1 90 3 RVR 1.0E3
FLOAD 90 3 VSENS 10.8E-7
*
****************************
* noise voltage
****************************
IR5 0 601 DC 1
IR6 0 602 DC 1
DR5 601 0 DRI
DR6 602 0 DRI
GR3 90 3 601 602 1.92
*
***************************
* shutdown section
***************************
*
* shdn bias current
GSB 3 70 POLY(2) 42 0 5 3 0 0 0 0 1.33E-3
RSB 70 3 1.0E3
DSB 3 70 DIC
GSHDN 5 3 70 3 5.58E-7
*
* schmitt trigger, trip points 0.75V / 0.9V
GSD1 3 71 72 5 1.0E-1
RSD1 71 3 1.0E4
CSD1 71 3 2.2E-9
DSDP2 71 73 DTT
VSDP2 73 3 DC 1.8
DSDN2 74 71 DTT
VSDN2 74 3 DC -1.8
GTV1 3 72 POLY(1) 71 3 8.24E-4 2.98E-5
RTV1 72 3 1.0E3
SSHDN 90 3 71 3 SHDN
*
***********************
* models used
***********************
.MODEL DX D IS=8.2592e-16 RS=0 XTI=1 CJO=0 IBV=1e-10 TT=0
.MODEL DIC D IS=8e-13 BV=5.0 RS=0 XTI=0
.MODEL DAC D IS=8e-13 BV=6.3 RS=0 XTI=0
.MODEL DTT D IS=8e-16 RS=0 XTI=1 IBV=1e-10 TT=8.3E-6
.MODEL DRI D(IS=8.2592e-16 KF=3.2074e-19 RS=0 XTI=1 CJO=0 IBV=1e-10 TT=0)
*
.MODEL RVD RES(TC1=2.8E-3)
.MODEL RVR RES(TC1=-7.4E-5)
.MODEL REA RES(TC1=2.5E-3)
*
.MODEL SROP1 VSWITCH(RON=0.001 ROFF=1.0E8 VON=0.0 VOFF=0.1)
.MODEL SHDN VSWITCH(RON=0.01 ROFF=1.0E8 VON=01.0 VOFF=-1.0)
*
.MODEL Q1 PNP IS=1e-10 BF=6800 XTI=0 NF=1.0
************************
*
.ENDS LT1963
